US05459137
1-(4-Diacetylaminophenyl)-3-acetyl-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine
2.0 g <6.7 mmol) of 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine were refluxed with 40 ml of acetic anhydride for 3 hours, then it was evaporated to dryness under reduced pressure. The crystalline residue was transferred with 25 ml of water to a filter and washed with 5×3 ml of water. After drying 2.79 g of the raw triacetyl derivative were obtained. After washing with 20 ml of isopropanol and drying at 100° C. 2.39 g (84.6%) of the pure aimed product were obtained, m.p. 224°-227° C.

reactant | 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | NC1=CC=C(C=C1)C1=NNC(CC2=C1C=C1C(=C2)OCO1)C | C17H17N3O2
reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(4-Diacetylaminophenyl)-3-acetyl-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | 2.39 g, 84.6% | C(C)(=O)N(C1=CC=C(C=C1)C1=NN(C(CC2=C1C=C1C(=C2)OCO1)C)C(C)=O)C(C)=O | C23H23N3O5
